US03933816
A mixture of 0.01 mole of 7-bromo-2,3-dihydro-α-propyl-5-(2-pyridyl)-2-oxo-1H-1,4-benzodiazepin-1-acetic acid methyl ester, 0.0105 mole of phosphorus pentasulfide and 100 ml. of pyridine is heated under reflux for about 24 hours. The mixture is evaporated and the residue thus obtained is dissolved in methylene chloride-water. The organic layer is separated, washed with saturated sodium bicarbonate solution, dried over anhydrous magnesium sulfate and evaporated to remove the solvent. The residue thus obtained is chromatographed on silica gel and eluted to give 7-bromo-2,3-dihydro-α-propyl-5-(2-pyridyl)-2-thioxo-1H-1,4-benzodiazepin-1-acetic acid methyl ester.

reactant | 7-bromo-2,3-dihydro-α-propyl-5-(2-pyridyl)-2-oxo-1H-1,4-benzodiazepin-1-acetic acid methyl ester | 0.01 mole | COC(C(N1C(CN=C(C2=C1C=CC(=C2)Br)C2=NC=CC=C2)=O)CCC)=O | C20H20BrN3O3
reactant | phosphorus pentasulfide | 0.0105 mole | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride water | C(Cl)Cl.O
product | 7-bromo-2,3-dihydro-α-propyl-5-(2-pyridyl)-2-thioxo-1H-1,4-benzodiazepin-1-acetic acid methyl ester | COC(C(N1C(CN=C(C2=C1C=CC(=C2)Br)C2=NC=CC=C2)=S)CCC)=O | C20H20BrN3O2S
